US08937150B2
(S)-1-((S)-2-(methoxycarbonylamino)-3-methylbutanoyl)pyrrolidine-2-carboxylic acid
(S)-Benzyl 1-((S)-2-(methoxycarbonylamino)-3-methylbutanoyl)pyrrolidine-2-carboxylate (40 g) and 5% Pd/Alumina were charged to a Parr reactor followed by THF (160 mL). The reactor was sealed and purged with nitrogen (6×20 psig) followed by a hydrogen purge (6×30 psig). The reactor was pressurized to 30 psig with hydrogen and agitated at room temperature for approximately 15 hours. The resulting slurry was filtered through a GF/F filter and concentrated to approximately 135 g solution. Heptane (120 mL) was added, and the solution was stirred until solids formed. After an addition 2-3 hours, additional heptane (240 mL) was added drop-wise, the slurry was stirred for approximately 1 hour, then filtered. The solids were dried to afford the title compound (S)-1-((S)-2-(methoxycarbonylamino)-3-methylbutanoyl)pyrrolidine-2-carboxylic acid.

reactant | (S)-Benzyl 1-((S)-2-(methoxycarbonylamino)-3-methylbutanoyl)pyrrolidine-2-carboxylate | 40 g | COC(=O)N[C@H](C(=O)N1[C@@H](CCC1)C(=O)OCC1=CC=CC=C1)C(C)C | C19H26N2O5
reactant | THF | 160 mL | C1CCOC1 | C4H8O
solvent | heptane | 240 mL | CCCCCCC | C7H16
product | (S)-1-((S)-2-(methoxycarbonylamino)-3-methylbutanoyl)pyrrolidine-2-carboxylic acid | COC(=O)N[C@H](C(=O)N1[C@@H](CCC1)C(=O)O)C(C)C | C12H20N2O5
